US05157124
The intermediate imidazolidinones and imidazolones were converted to the final products using the general procedures outlined in Scheme 2. 1,3-dihydro-1-methyl-3-(2-propynyl)-2H-imidazol-2-one was reacted with paraformaldehyde and pyrrolidine in dioxane using cuprous chloride as catalyst to give 1,3-dihydro-1-methyl-3-[4-(1-pyrrolidinyl)-2-butynyl]-2H-imidazol-2-one. The diethylamine analogue was prepared similarly and was reacted with cyanogen bromide to give the bromide XI which was reacted with imidazole to give 1,3-dihydro-1-[4-(1H-imidazol-1-yl)-2-butynyl]-3-methyl -2H-imidazol-2-one and with 1-acetyl-4-methylimidazole to give XII which was hydrolyzed to 1,3-dihydro-1-methyl-3-[4-(5-methyl-1H-imidazol-1-yl)-2-butynyl]-2H-imidazol-2-one. The imidazolidinone analogues of Table 1, imidazolones of Table 2 and immidazolidinedione and tetrahydropyrimidinones of Table 3 were prepared by these general procedures.

reactant | 1,3-dihydro-1-methyl-3-(2-propynyl)-2H-imidazol-2-one | CN1C(N(C=C1)CC#C)=O | C7H8N2O
reactant | paraformaldehyde | C=O | CH2O
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,3-dihydro-1-methyl-3-[4-(1-pyrrolidinyl)-2-butynyl]-2H-imidazol-2-one | CN1C(N(C=C1)CC#CCN1CCCC1)=O | C12H17N3O
